US04493796
A similar isolation scheme was employed later during large scale production of didemnin B for biological testing. The dichloromethane extract was obtained as before with only minor modifications due to scale-up. Prep LC employed an isocratic chloroform:methanol solvent system ranging from 98:2 to 96:4 depending on the condition of the reusable PrepPak cartridge. This allowed the use of the built-in refractive index detector to monitor elution of the didemnins. Fractions obtained through this procedure were chromatographed on a reversed phase (ODS) PrepPak cartridge with 77:23 methanol:water, again monitoring with the refractive index detector. Pooling of the appropriate fractions gave yields of didemnins A-C similar to those obtained with the original procedure. Didemnins D and E could only be separated by HPLC as above.

reactant | didemnin B | CC[C@H](C)[C@@H]1[C@H](CC(=O)O[C@H](C(=O)[C@@H](C(=O)N[C@H](C(=O)N2CCC[C@H]2C(=O)N([C@H](C(=O)O[C@@H]([C@@H](C(=O)N1)NC(=O)[C@@H](CC(C)C)N(C)C(=O)[C@@H]3CCCN3C(=O)C(C)O)C)CC=4C=CC(=CC4)OC)C)CC(C)C)C)C(C)C)O | C57H89N7O15
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | didemnins | CC[C@H](C)[C@@H]1[C@H](CC(=O)O[C@H](C(=O)[C@@H](C(=O)N[C@H](C(=O)N2CCC[C@H]2C(=O)N([C@H](C(=O)O[C@@H]([C@@H](C(=O)N1)NC(=O)[C@@H](CC(C)C)NC)C)CC3=CC=C(C=C3)OC)C)CC(C)C)C)C(C)C)O | C49H78N6O12
